US07262185B2
A solution of 1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone (600 mg) and O-methylhydroxylamine hydrochloride (227 mg) in ethanol (20 ml) was refluxed for 8 hours. After the mixture was allowed to be at room temperature, and saturated sodium bicarbonate solution was added to the mixture, the mixture was extracted with ethyl acetate, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=1:1), and washed with diisopropyl ether to give (1E)-1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone O-methyloxime (230 mg) as colorless crystals.

reactant | 1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone | 600 mg | NC1=CC=C(C=C1)C(CC=1N(C=CN1)CCC)=O | C14H17N3O
reactant | O-methylhydroxylamine hydrochloride | 227 mg | Cl.CON
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1E)-1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone O-methyloxime | 230 mg | CO\N=C(/CC=1N(C=CN1)CCC)\C1=CC=C(C=C1)N | C15H20N4O
